US08232312B2
1-(5-nitro-indol-1-yl)-2-phenyl-ethanone
300 mg 5-nitroindole are dissolved in 10 ml of tetrahydrofuran. 81 mg sodium hydride (60% in mineral oil) are added and the mixture is stirred for 1 hour at ambient temperature. Then 294 μl phenylacetic acid chloride are added dropwise and the mixture is stirred for another 3 hours. It is divided between saturated ammonium chloride solution and ethyl acetate. The aqueous phase is extracted with ethyl acetate and the combined organic phases are dried on magnesium sulphate. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 10:1 to 1:3).

reactant | 5-nitroindole | 300 mg | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | sodium hydride | 81 mg | [H-].[Na+]
reactant | phenylacetic acid chloride | 294 μl | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-nitro-indol-1-yl)-2-phenyl-ethanone | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)C(CC1=CC=CC=C1)=O | C16H12N2O3
